US08134001B2
In a manner similar to the method described in Example 50a, 2-fluoro-5-iodobenzaldehyde (5.84 g, 23.4 mmol) (Aldrich) was reacted with 1,3,5-trimethyl-1H-pyrazol-4-ol (3.24 g, 25.7 mmol) and K2CO3 in N,N-dimethylacetamide to give 5-iodo-2-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)-benzaldehyde as a yellow solid (Yield 8.1 g, 97%).

reactant | 2-fluoro-5-iodobenzaldehyde | 23.4 mmol, 5.84 g | FC1=C(C=O)C=C(C=C1)I | C7H4FIO
reactant | 1,3,5-trimethyl-1H-pyrazol-4-ol | 25.7 mmol, 3.24 g | CN1N=C(C(=C1C)O)C | C6H10N2O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 5-iodo-2-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)-benzaldehyde | Yield 8.1 g, 97% | IC=1C=CC(=C(C=O)C1)OC=1C(=NN(C1C)C)C | C13H13IN2O2
